US09290468B2
Step 7: dimethyl 5,5′-disulfanediylbis(4-amino-3-fluoro-2-((2-chlorophenyl)amino)benzoate)
To a solution of methyl 4-amino-5-(4-methoxybenzylthio)-3-fluoro-2-((2-chlorophenyl)amino)benzoate (19.93 g, 44.6 mmol) in CH2Cl2 (180 mL) was added DDQ (11.25 g, 53.73 mmol) followed by water (20 mL). After stirring at ambient temperature for 10 h, the reaction was quenched by saturated sodium bicarbonate (aq., 100 mL). The aqueous layer was extracted by CH2Cl2 (100 mL×3). The combined organic phase was washed with water (100 mL) and brine (100 mL) sequentially, dried over Na2SO4, filtered and concentrated. The crude product was purified by column chromatography on silica gel (petroleum ether/ethyl acetate, 5:1, v/v) to give the desired product (pale yellow solid, 9.39 g, 32.3% yield). 1H NMR (400 MHz, CDCl3): δ 9.33 (s, 2H), 7.46 (s, 2H), 7.40 (m, 2H), 7.15 (m, 2H), 6.92 (m, 2H), 6.76 (m, 2H), 4.86 (br, 4H), 3.80 (s, 6H).

reactant | methyl 4-amino-5-(4-methoxybenzylthio)-3-fluoro-2-((2-chlorophenyl)amino)benzoate | 44.6 mmol, 19.93 g | NC1=C(C(=C(C(=O)OC)C=C1SCC1=CC=C(C=C1)OC)NC1=C(C=CC=C1)Cl)F | C22H20ClFN2O3S
reactant | DDQ | 53.73 mmol, 11.25 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | water | 20 mL | O | H2O
solvent | CH2Cl2 | 180 mL | C(Cl)Cl | CH2Cl2
product | dimethyl 5,5′-disulfanediylbis(4-amino-3-fluoro-2-((2-chlorophenyl)amino)benzoate) | 9.39 g, 32.3% yield | S(SC=1C(=C(C(=C(C(=O)OC)C1)NC1=C(C=CC=C1)Cl)F)N)C=1C(=C(C(=C(C(=O)OC)C1)NC1=C(C=CC=C1)Cl)F)N | C28H22Cl2F2N4O4S2
